US04891375
B. 4-(4-(2-(4-(3-Trifluoromethylphenyl)piperazinyl)ethyl)phenyl)thiazol-2-one
To a 35 ml round-bottomed flask equipped with condenser and N2 inlet were added 1.89 g (7.89 mmol) of 4-(4-(2-chloroethyl)phenyl)thiazol-2-one, 2.10 g (7.89 mmol) of N-(3-trifluoromethylphenyl)piperazine hydrochloride, 2.20 ml (15.8 mmol) of triethylamine, 0.84 g (7.89 mmol) of sodium carbonate, 2 mg of sodium iodide, and 20 ml of methylisobutylketone. The reaction was heated at reflux for 6 days, cooled, and evaporated. The residue was taken up in ethyl acetate/water, the layers separated, and the ethyl acetate layer washed with brine, dried over sodium sulfate, and evaporated. The residue was chromatographed on silica gel using ethyl acetate/methylene chloride as eluent. The product fractions were evaporated, and the residue triturated with ether, taken up in hot ethyl acetate, treated with ethyl acetate saturated with hydrochloride, precipitated with ether, filtered, washed with ether, and dried to give 0.787 g (20%) of a white solid, m.p. 285°-287° C.

reactant | 4-(4-(2-chloroethyl)phenyl)thiazol-2-one | 7.89 mmol, 1.89 g | ClCCC1=CC=C(C=C1)C=1NC(SC1)=O | C11H10ClNOS
reactant | N-(3-trifluoromethylphenyl)piperazine hydrochloride | 7.89 mmol, 2.10 g | Cl.FC(C=1C=C(C=CC1)N1CCNCC1)(F)F
reactant | triethylamine | 15.8 mmol, 2.20 ml | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | 7.89 mmol, 0.84 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | sodium iodide | 2 mg | [I-].[Na+]
solvent | methylisobutylketone | 20 ml | CC(=O)CC(C)C | C6H12O
product | 4-(4-(2-(4-(3-Trifluoromethylphenyl)piperazinyl)ethyl)phenyl)thiazol-2-one | 0.787 g, 20% | FC(C=1C=C(C=CC1)N1CCN(CC1)CCC1=CC=C(C=C1)C=1NC(SC1)=O)(F)F | C22H22F3N3OS
